US06861432B2
1e) 1,1-Dimethylethyl 4-[5-[1-[4-Cyano-3-(trifluoromethyl)phenyl]-2,5-dihydro-4-methyl-2,5-dioxo-1H-pyrrol-3-yl]pentyl]piperazine-1-carboxylate
1.56 g of 1,1-dimethylethyl piperazine-1-carboxylate was added under a nitrogen atmosphere to a solution of 2.0 g of 4-[2,5-dihydro-3-(5-iodopentyl)-4-methyl-2,5-dioxo-1H-pyrrol-1-yl]-2-(trifluoromethyl)benzonitrile in 53 ml of tetrahydrofuran, and this mixture was stirred for 7 days at room temperature. For working-up, it was diluted with ethyl acetate and washed with semi-saturated sodium bicarbonate solution. After drying on sodium sulfate and concentration by evaporation, it was chromatographed with methanol/dichloromethane on silica gel, and thus 2.2 g of the title compound was obtained as a yellowish oil.

reactant | 1,1-dimethylethyl piperazine-1-carboxylate | 1.56 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 4-[2,5-dihydro-3-(5-iodopentyl)-4-methyl-2,5-dioxo-1H-pyrrol-1-yl]-2-(trifluoromethyl)benzonitrile | 2.0 g | ICCCCCC=1C(N(C(C1C)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F)=O | C18H16F3IN2O2
solvent | tetrahydrofuran | 53 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,1-Dimethylethyl 4-[5-[1-[4-Cyano-3-(trifluoromethyl)phenyl]-2,5-dihydro-4-methyl-2,5-dioxo-1H-pyrrol-3-yl]pentyl]piperazine-1-carboxylate | 2.2 g | C(#N)C1=C(C=C(C=C1)N1C(C(=C(C1=O)C)CCCCCN1CCN(CC1)C(=O)OC(C)(C)C)=O)C(F)(F)F | C27H33F3N4O4
